US06211215B1
In substantially the same manner as in Reference Example 47, crotonamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(1-propenyl)oxazole. The yield is 10%. Oily substance.

reactant | crotonamide | C(\C=C\C)(=O)N | C4H7NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(1-propenyl)oxazole | yield is 10% | ClCC=1N=C(OC1)C=CC | C7H8ClNO
